US06191124B1
1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)ethanone (Formula O-1), 1.37 g, was condensed with 2-napthaldehyde by non-critical variations of EXAMPLE 15 to yield 3-(2-Napthalenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one (Formula O-2), 2.24 g, m.p. 185-188°.

reactant | 1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)ethanone | N=1C=C(N2C1SC1=C2CCCCC1)C(C)=O | C12H14N2OS
reactant | 2-napthaldehyde | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
product | 3-(2-Napthalenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one | C1=C(C=CC2=CC=CC=C12)C=CC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C23H20N2OS
